US05817691
Preparation of 2-(p-Chlorophenyl)-3-[(p-chlorophenyl)sulfinyl]-5-(trifluoromethyl)pyrrole
A solution of 2-(p-chlorophenyl)-3-[(p-chlorophenyl)thio]-5-(trifluoromethyl)pyrrole (2.57 g, 6.6 mmol) and 30% hydrogen peroxide solution (0.83 g, 7.3 mmol) in acetic acid is stirred at room temperature overnight and poured into water. The resultant aqueous mixture is filtered to obtain a solid. A solution of the solid in methylene chloride is washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and a 1:3 ethyl acetate/hexanes solution gives the title product as a white solid (1.75 g, mp 174°-176° C.)

reactant | 2-(p-chlorophenyl)-3-[(p-chlorophenyl)thio]-5-(trifluoromethyl)pyrrole | 6.6 mmol, 2.57 g | ClC1=CC=C(C=C1)C=1NC(=CC1SC1=CC=C(C=C1)Cl)C(F)(F)F | C17H10Cl2F3NS
reactant | hydrogen peroxide | 7.3 mmol, 0.83 g | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(p-Chlorophenyl)-3-[(p-chlorophenyl)sulfinyl]-5-(trifluoromethyl)pyrrole | 1.75 g | ClC1=CC=C(C=C1)C=1NC(=CC1S(=O)C1=CC=C(C=C1)Cl)C(F)(F)F | C17H10Cl2F3NOS
